US07569578B2
Methyl 2-(benzyloxycarbonyl)acrylate
To a flame dried three neck round bottom flask, was added methyl 2-(benzyloxycarbonyl)-3-hydroxypropanoate (129 g, 509 mmol), anhydrous methylene chloride (2 L), and methanesulfonyl chloride (49.3 mL, 636 mmol). The mixture was cooled to −15° C.→20° C. for 20 min while stirring with a mechanical stirrer. Triethylamine (213 mL, 1527 mmol) was added dropwise ensuring the inner temperature of the reaction mixture did not exceed 0° C. (the addition of the first equivalent of triethylamine was exothermic). After the addition of triethylamine, the mixture was stirred at 0° C. for 30 min, then the cooling bath was removed and the mixture was stirred at room temperature for 1.5 h. Methanol (21 mL) was added to quench excess methanesulfonyl chloride. The mixture was washed portionwise with 0.5% aq. potassium hydrogen sulfate to pH 5, then sat. sodium bicarbonate/brine (1:2 by volume) and brine. The methylene chloride solution was dried over anhydrous sodium sulfate. After filtration, the solvents were removed and the residue was subjected to column chromatography on silica gel using 1:9 ethyl acetate/hexanes as eluent to afford the title compound as a colorless very viscous oil, which recrystalized upon standing at room temperature, 0° C. and −15° C. (111 g, 92% yield). 1H-NMR (DMSO-d6) δ 8.96 (s, 1H), 7.39-7.35 (m, 5H), 5.76 (s, 1H), 5.60 (s, 1H), 5.10 (s, 2H), 3.71 (s, 3H); 13C-NMR (DMSO-d6) δ 163.7, 153.5, 136.3, 133.3, 128.8, 128.3, 128.1, 127.8, 65.9, 52.3.

reactant | methyl 2-(benzyloxycarbonyl)-3-hydroxypropanoate | 509 mmol, 129 g | C(C1=CC=CC=C1)OC(=O)C(C(=O)OC)CO | C12H14O5
reactant | methylene chloride | 2 L | C(Cl)Cl | CH2Cl2
reactant | methanesulfonyl chloride | 636 mmol, 49.3 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | Triethylamine | 1527 mmol, 213 mL | C(C)N(CC)CC | C6H15N
product | Methyl 2-(benzyloxycarbonyl)acrylate | 92% yield | C(C1=CC=CC=C1)OC(=O)C(C(=O)OC)=C | C12H12O4
